US04366320
4-(Pentafluorophenyl)-1,2,4-triazoline-3,5-dione
A 50 ml, three-necked flask is fitted with a gas-dispersion tube, a drying tube and a stirrer. 4-(Pentafluorophenyl)urazole, 0.5 g (1.8 mM) is dissolved in 25 ml of ethyl acetate. Anhydrous sodium sulfate, 3 g, is added to remove water present in NO2. The reaction mixture is cooled in an ice bath, and nitrogen dioxide added slowly for 20 minutes. The mixture is allowed to stir for 20 minutes. The Na2SO4 is removed by filtration and the ethyl acetate removed with the rotary evaporator to yield a red oil. The residual solvent is removed with a vacuum pump to yield a crystalline solid, 0.35 g, mp 88°-91° C. The product is further purified by sublimation, mp 94°-96° C.

reactant | 4-(Pentafluorophenyl)urazole | FC1=C(C(=C(C(=C1N1C(NNC1=O)=O)F)F)F)F | C8H2F5N3O2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 4-(Pentafluorophenyl)-1,2,4-triazoline-3,5-dione | FC1=C(C(=C(C(=C1N1C(N=NC1=O)=O)F)F)F)F | C8F5N3O2
